US04780462
(2) 2,6-Dimethyoxyphenoxyethylchloride
A solution of 7.77 g of 2,6-dimethoxyphenoxyethanol in 30 ml of pyridine was cooled and 4.7 g of thionylchloride was added with stirring. After 20 minutes, stirring, the reaction mixture was heated on the steam bath for 2 hours. After cooling, the reaction mixture was evaporated in reduced pressure. The residue was extracted with CHCl3, purified with silicagel chromatography (eluent: EtOAc) 1.82 g of objective compound was obtained.

reactant | 2,6-dimethoxyphenoxyethanol | 7.77 g | COC1=C(OC(C)O)C(=CC=C1)OC | C10H14O4
reactant | thionylchloride | 4.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2,6-Dimethyoxyphenoxyethylchloride | COC1=C(OCCCl)C(=CC=C1)OC | C10H13ClO3
